US06969716B2
1-[4-Fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]ethanone
To a solution of 3-bromo-4-fluoroacetophenone (10 g, 46.07 mmol) and bis(pinacolato)diboron (12.87 g, 50.68 mmol) in 1,4-dioxane (90 ml) and DMSO (10 ml) was added potassium acetate (9.04 g, 92.14 mmol) and the mixture degassed for 1 h. Dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane (DCM) adduct (1.13 g, 1.38 mmol) was added and the mixture degassed for a further 15 min and then heated at 90° C. for 18 h. After cooling to ambient temperature the mixture was filtered and the filter cake washed with ethyl acetate (2×50 ml). The filtrate was then washed with water (100 ml), brine (100 ml), dried (MgSO4), filtered and evaporated to give the title product as a brown oil which was used without further purification (12.0 g): δH (400 MHz, CDCl3) 1.38 (12H, s), 2.61 (2H, s), 2.61 (3H, s), 7.10 (1H, t, J 8.6 Hz), 8.05-8.09 (1H, m), 8.35 (1H, dd, J 2.3, 5.5 Hz).

reactant | 3-bromo-4-fluoroacetophenone | 46.07 mmol, 10 g | CC(=O)C1=CC(=C(C=C1)F)Br | C8H6BrFO
reactant | bis(pinacolato)diboron | 50.68 mmol, 12.87 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 92.14 mmol, 9.04 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 90 ml | O1CCOCC1 | C4H8O2
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 1-[4-Fluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]ethanone | FC1=C(C=C(C=C1)C(C)=O)B1OC(C(O1)(C)C)(C)C | C14H18BFO3
